US07030139B2
9A: N,N-diethyl-3-nitro-4[(2-phenylethyl)amino]benzamide.
Following general procedure 2B: A mixture of N,N-diethyl-4-fluoro-3-nitrobenzamide (0.125 g, 0.521 mmol), 2-phenylethanamine (0.065 mL, 0.521 mmol) in 80% aq. EtOH (3 mL) was heated at 85° C. for 4 hours. Usual work-up provided the title compound (0.170 g, 96%) which was used without further purification. MS (ESI) (M+H)+=342.

reactant | N,N-diethyl-4-fluoro-3-nitrobenzamide | 0.521 mmol, 0.125 g | C(C)N(C(C1=CC(=C(C=C1)F)[N+](=O)[O-])=O)CC | C11H13FN2O3
reactant | 2-phenylethanamine | 0.521 mmol, 0.065 mL | C1(=CC=CC=C1)CCN | C8H11N
solvent | EtOH | 3 mL | CCO | C2H6O
product | N,N-diethyl-3-nitro-4[(2-phenylethyl)amino]benzamide | 0.170 g, 96% | C(C)N(C(C1=CC(=C(C=C1)NCCC1=CC=CC=C1)[N+](=O)[O-])=O)CC | C19H23N3O3
